US06291530B1
To a solution of t-butyl (5-acetyl-2-benzyloxyphenoxy)-acetate (2.0 g, 5.6 mmol) in EtOH (25 mL) is added 10% Pd/C (0.10 g), and the mixture is hydrogenated at 1 atm for 1.25 hours. Filtration through celite, followed by solvent removal in vacuo yields t-butyl (5-acetyl-2-hydroxyphenoxy)-acetate.

reactant | t-butyl (5-acetyl-2-benzyloxyphenoxy)-acetate | 5.6 mmol, 2.0 g | C(C)(=O)C=1C=CC(=C(OCC(=O)OC(C)(C)C)C1)OCC1=CC=CC=C1 | C21H24O5
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | t-butyl (5-acetyl-2-hydroxyphenoxy)-acetate | C(C)(=O)C=1C=CC(=C(OCC(=O)OC(C)(C)C)C1)O | C14H18O5
